US05641625
MonoBoc-diethylenetriamine dihydrochloride (1)
A solution of t-butyl-p-nitrophenyl carbonate (10 g; 0.0418 mole) in CHCl3 (400 ml) was added to a solution of diethylenetriamine (45 ml; 0.0417 mole) in CHCl3 (250 ml) at 0° C. over a period of 3 h. The reaction mixture was stirred overnight at room temperature. The precipitate that appeared was filtered and washed in CHCl3. The solvent was evaporated, first under reduced pressure with a water-aspirator, then with an oil-pump (0.05 mmHg; 50° C.). The residue was dissolved in a mixture ethylacetate (50 ml)/H2O (50 ml) and the solution was acidified to pH 4 with HCl 4N, extracted with ethylacetate (3×50 ml). The aqueous solution was adjusted to pH 9 with NaOH 2N and extracted with ethylacetate (3×50 ml). The aqueous phase was adjusted to pH 11.5 and extracted with ethylacetate (10×50 ml). The combined organic phases of the last extraction were evaporated under reduced pressure and the resulting oil was dissolved in water (50 ml) and acidified to pH 5. Evaporation of water yielded a slightly yellow solid, which was thoroughly washed with ether (yield: 6.41 g; 55%). 1H-NMR (D2O): 6 (ppm): 1.4 (s, 9H); 3.0 (t, 2H); 3.3 (s broad, 4H); 3.4 (t, 2H)

reactant | t-butyl-p-nitrophenyl carbonate | 0.0418 mole, 10 g | C(OC1=C(C=C(C=C1)[N+](=O)[O-])C(C)(C)C)([O-])=O
reactant | diethylenetriamine | 0.0417 mole, 45 ml | NCCNCCN | C4H13N3
reactant | CHCl3 | 400 ml | C(Cl)(Cl)Cl | CHCl3
reactant | CHCl3 | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | MonoBoc-diethylenetriamine dihydrochloride | Cl.Cl.C(=O)(OC(C)(C)C)N(CCN)CCN | InChI=1S/C9H21N3O2.2ClH/c1-9(2,3)14-8(13)12(6-4-10)7-5-11;;/h4-7,10-11H2,1-3H3;2*1H
